* File: XOR.pex.netlist.pex
* Created: Thu May 11 16:07:04 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%Y 22 27 35 40 59
c0 50 0 0.0577578f
c1 46 0 0.102269f
c2 44 0 0.0917532f
c3 41 0 0.0360429f
c4 40 0 0.378825f
c5 35 0 0.180375f
c6 31 0 0.135168f
c7 30 0 0.0806027f
c8 28 0 0.0443304f
c9 27 0 0.0940394f
c10 22 0 0.0976691f
c11 18 0 0.138384f
c12 15 0 0.085341f
c13 14 0 0.0855969f
c14 12 0 0.065332f
c15 5 0 0.0543214f
c16 4 0 0.115191f
r17 48 50 12
r18 43 46 3.35106
r19 43 44 13.2552
r20 38 46 4.73303
r21 38 40 43.75
r22 37 50 0.528559
r23 37 40 94.25
r24 33 48 0.528559
r25 33 35 45.75
r26 31 53 8
r27 30 31 13.2552
r28 28 30 4.69149
r29 25 28 6.45644
r30 25 27 35
r31 24 41 7.73958
r32 24 27 34.25
r33 20 41 7.73958
r34 20 22 29.75
r35 18 59 0.035814
r36 17 18 13.2552
r37 15 41 1.29764
r38 15 17 4.69149
r39 14 44 0.0431395
r40 11 14 0.035
r41 11 12 8
r42 5 12 0.07345
r43 4 53 0.19175
r44 4 5 0.0492424
.ends

.subckt PM_XOR%X 14 17 22 25 57
c0 57 0 0.140079f
c1 46 0 0.083483f
c2 45 0 0.0363866f
c3 43 0 0.115545f
c4 41 0 0.09262f
c5 38 0 0.0266544f
c6 35 0 0.203717f
c7 34 0 0.105372f
c8 28 0 0.085341f
c9 23 0 0.102545f
c10 22 0 0.317523f
c11 17 0 0.138825f
c12 14 0 0.374559f
c13 10 0 0.0720674f
c14 8 0 0.183425f
r15 50 51 8
r16 46 50 0.0975
r17 40 43 4.88298
r18 40 41 13.2552
r19 37 38 8.52632
r20 35 51 0.07
r21 34 35 13.2552
r22 31 34 3.92553
r23 29 57 0.0284884
r24 28 29 13.2552
r25 26 45 1.29764
r26 26 28 4.69149
r27 23 45 7.73958
r28 23 25 34.25
r29 20 45 7.73958
r30 20 22 29.75
r31 19 43 4.73303
r32 19 22 118.5
r33 17 38 41
r34 14 37 99
r35 11 31 4.73303
r36 11 14 56.75
r37 10 41 0.0390698
r38 8 46 0.25285
r39 7 10 0.035
r40 7 8 8
.ends

.subckt PM_XOR%F 8 11 12 16 17
c0 20 0 0.315164f
c1 15 0 0.272793f
c2 8 0 0.191666f
c3 6 0 0.0725986f
c4 4 0 0.0931041f
c5 3 0 0.0918684f
r6 19 20 16.3327
r7 17 19 4.59
r8 16 19 4.59
r9 14 15 8.16635
r10 12 14 2.295
r11 11 14 2.295
r12 6 15 0.176556
r13 6 8 0.0195555
r14 5 20 0.179667
r15 4 5 0.039111
r16 3 8 0.0195555
r17 3 4 0.0731111
.ends

.subckt PM_XOR%Y_INV 6 11 23 29
c0 34 0 0.0419056f
c1 32 0 0.0432829f
c2 27 0 0.138385f
c3 26 0 0.0385519f
c4 23 0 0.252867f
c5 19 0 0.321094f
c6 16 0 0.0952801f
c7 14 0 0.102986f
c8 9 0 0.220903f
c9 5 0 0.0697227f
r10 30 32 12
r11 27 34 7.73958
r12 27 29 34.25
r13 26 34 7.73958
r14 25 32 0.528559
r15 25 26 12.75
r16 21 30 0.528559
r17 21 23 69.5
r18 18 19 13.2552
r19 16 34 1.29764
r20 16 18 4.88298
r21 13 14 16.3327
r22 11 13 4.59
r23 8 9 8.16635
r24 6 8 2.295
r25 4 19 0.328023
r26 4 5 0.00864542
r27 3 9 0.0723333
r28 3 5 0.0285359
r29 2 14 0.0956667
r30 2 5 0.0285359
.ends

.subckt PM_XOR%noxref_5 10 15 16 20
c0 23 0 0.0884938f
c1 19 0 0.180412f
c2 13 0 0.0886595f
c3 5 0 0.131793f
c4 4 0 0.206414f
c5 3 0 0.051815f
c6 2 0 0.299552f
r7 22 23 16.3327
r8 20 22 4.59
r9 18 19 16.3327
r10 16 18 4.59
r11 15 18 4.59
r12 12 13 16.3327
r13 10 12 4.59
r14 9 23 0.0723333
r15 8 19 0.0723333
r16 7 19 0.0723333
r17 6 13 0.0723333
r18 5 8 0.039111
r19 4 9 0.039111
r20 4 5 0.144667
r21 3 6 0.039111
r22 2 7 0.039111
r23 2 3 0.144667
.ends

.subckt PM_XOR%X_INV 6 11 20 23
c0 31 0 0.155672f
c1 30 0 0.0368565f
c2 28 0 0.110846f
c3 26 0 0.0257452f
c4 23 0 0.228005f
c5 14 0 0.103928f
c6 9 0 0.176461f
c7 5 0 0.0674216f
c8 4 0 0.183465f
r9 28 31 8.1313
r10 28 30 8.1313
r11 28 29 13.2552
r12 26 30 12.5
r13 25 26 8.1
r14 23 25 69.75
r15 20 31 34.25
r16 13 14 16.3327
r17 11 13 4.59
r18 8 9 8.16635
r19 6 8 2.295
r20 4 29 0.205116
r21 4 5 0.00864542
r22 3 9 0.0723333
r23 3 5 0.0285359
r24 2 14 0.0956667
r25 2 5 0.0285359
.ends

.subckt PM_XOR%VDD 2 3 8 13 18 69
c0 58 0 0.0232844f
c1 54 0 0.117644f
c2 51 0 0.0518496f
c3 21 0 0.240527f
c4 16 0 0.229921f
c5 11 0 0.231716f
c6 6 0 0.289606f
r7 67 69 0.0191239
r8 58 69 0.0200134
r9 48 69 16.3327
r10 46 58 0.122907
r11 46 59 0.131047
r12 45 48 18.383
r13 45 46 5.44423
r14 43 65 0.00676689
r15 43 54 0.030779
r16 43 59 0.030779
r17 42 45 18.383
r18 42 43 16.3327
r19 40 54 0.108256
r20 39 42 18.383
r21 39 40 8.16635
r22 35 40 0.156279
r23 35 55 0.106628
r24 34 35 5.44423
r25 32 63 0.00676689
r26 32 51 0.030779
r27 32 55 0.030779
r28 31 34 18.383
r29 31 32 16.3327
r30 29 51 0.132674
r31 29 52 0.121279
r32 28 31 18.383
r33 28 29 5.44423
r34 25 61 0.0191239
r35 25 52 0.0200134
r36 24 28 18.383
r37 24 25 16.3327
r38 21 67 0.281556
r39 20 21 8.16635
r40 18 20 2.295
r41 16 65 0.281556
r42 15 16 8.16635
r43 13 15 2.295
r44 11 63 0.281556
r45 10 11 8.16635
r46 8 10 2.295
r47 6 61 0.281556
r48 5 6 8.16635
r49 3 5 2.295
r50 2 39 9.19149
r51 2 34 9.19149
.ends

.subckt PM_XOR%GND 8 33 38 39 43 62
c0 58 0 0.112972f
c1 42 0 0.375506f
c2 36 0 0.339568f
c3 6 0 0.135575f
c4 3 0 0.393073f
c5 2 0 0.0174276f
r6 58 62 0.0146512
r7 45 46 16.3327
r8 43 45 4.59
r9 41 42 16.3327
r10 39 41 4.59
r11 38 41 4.59
r12 36 48 0.478333
r13 35 36 16.3327
r14 33 35 4.59
r15 31 58 0.0200134
r16 30 31 16.3327
r17 28 62 0.120465
r18 27 30 18.383
r19 27 28 8.16635
r20 25 28 0.156279
r21 24 27 18.383
r22 24 25 5.44423
r23 18 21 0.156279
r24 17 18 5.44423
r25 15 18 0.234419
r26 15 54 0.122093
r27 14 17 27.5745
r28 14 15 5.44423
r29 11 48 0.0191338
r30 11 54 0.0200035
r31 10 14 18.383
r32 10 11 16.3327
r33 8 24 27.5745
r34 8 17 18.383
r35 8 21 8.16635
r36 6 21 0.0765116
r37 6 7 0.030779
r38 5 25 0.0846512
r39 5 7 0.030779
r40 4 42 0.287
r41 4 7 0.00676689
r42 3 46 0.0333746
r43 2 31 0.0191239
r44 2 3 0.443333
.ends

.subckt PM_XOR%noxref_9 1 2
r0 1 2 6.66
.ends

.subckt PM_XOR%noxref_10 1 2
r0 1 2 2.25
.ends

